Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vertigo/nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ old ___ speaking woman with a history 
of HTN and Meniere's disease who presented with one day of 
persistent vertigo and nausea exacerbated by postitional changes 
as a transfer from urgent care ___.  

Patient reports dizziness began on evening of ___, worse 
with standing/sitting and improved with lying down. Dizziness 
also worsened with changes in head position while lying down. 
Dizziness is accompanied by significant nausea without emesis. 
She did have some ringing of her left ear a few days ago, but 
none currently. She does report persistent bifrontal headache 
over the same time period. Dizziness, HA, and nausea are present 
but markedly improved by time of arrival to floors.  

She does have a history of Meniere's diagnosed in ___ as a 
youth with last flare approximately ___ years ago. Previous flares 
similar in nature with episodes lasting ___ days. During a prior 
flare, she had trialed a ___ medication but disliked it due 
to severe sedation and the sensation that she couldn't awaken in 
the morning, which makes her hesitant to trial any other 
medications.  
She denies ear fullness, ear pain, fevers, night sweats, visual 
changes, CP, SOB, abd pain, diarrhea, dysuria, increased urinary 
frequency/urgency.  

Labs notable for:  
 8.6>14.4/41.7<234  
 139 | 102 | 15  
 ---------------<148  
 3.7 | 25 | 0.6  
INR 1.0  

UA w/ ___ WBC, many bacteria  

Imaging notable for:  
-CT head: No acute intracranial process.  
Neuro was consulted and suggested likely vestibulitis; 
recommended meclizine for symptomatic treatment and treatment of 
UTI. Needs to ambulate safely prior to discharge.  
 
Patient was given: 2L NS, 1 tab DS Bactrim.  
 
Decision was made to admit for persistent vertigo  
Vitals prior to transfer: 97.8 135/67 76 17 96/RA  
On the floor, son is at bedside. Patient reports 
dizziness/nausea/headache improved.  
 
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 

 
Past Medical History:
 
Hypertension
Meniere's last flare ___ years ago  
Osteoporosis  
Constipation  
Glucose intolerance 
 
Social History:
___
Family History:
noncontributory  
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
===========================  
Vital Signs: 98.2 150/61 75 16 99% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally except for scattered 
crackles in bilateral bases, no wheezes, rales, rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, mild 
tenderness to palpation of suprapubic/RLQ no organomegaly, no 
rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. Brief horizontal nystagmus with sitting up  
Skin: psoriatic patches in right temple and left parietal  

DISCHARGE PHYSICAL EXAM
===========================  
Vital Signs: 98.7 140/78 88 20 98% RA. 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present. No 
tenderness to palpation of suprapubic area, no rebound or 
guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, no nystagmus 
Skin: psoriatic patches in right temple and left parietal  

 
Pertinent Results:
ADMISSION LABS:
===============

___ 04:20PM BLOOD WBC-8.6 RBC-4.71 Hgb-14.4 Hct-41.7 MCV-89 
MCH-30.6 MCHC-34.5 RDW-12.9 RDWSD-41.8 Plt ___
___ 04:20PM BLOOD Neuts-81.8* Lymphs-14.2* Monos-3.0* 
Eos-0.2* Baso-0.6 Im ___ AbsNeut-6.99* AbsLymp-1.21 
AbsMono-0.26 AbsEos-0.02* AbsBaso-0.05
___ 04:20PM BLOOD ___ PTT-48.3* ___
___ 04:20PM BLOOD Glucose-148* UreaN-15 Creat-0.6 Na-139 
K-3.7 Cl-102 HCO3-25 AnGap-16
___ 04:20PM BLOOD Calcium-9.1 Mg-2.5
___ 04:00PM URINE Type-RANDOM Color-Yellow Appear-Hazy Sp 
___
___ 04:00PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-15 Bilirub-NEG Urobiln-0.2 pH-5.5 Leuks-NEG
___ 04:00PM URINE ___ Bacteri-MANY Yeast-NONE 
___ 04:00PM URINE ___ CastWax-<1 CastWBC-<1
___ 04:00PM URINE Mucous-MANY

DISCHARGE LABS:
================

___ 06:32AM BLOOD WBC-6.1 RBC-4.50 Hgb-13.3 Hct-39.7 MCV-88 
MCH-29.6 MCHC-33.5 RDW-13.1 RDWSD-42.1 Plt ___
___ 06:32AM BLOOD Glucose-116* UreaN-9 Creat-0.5 Na-139 
K-3.8 Cl-105 HCO3-22 AnGap-16
___ 06:32AM BLOOD Calcium-8.6 Phos-2.7 Mg-2.5

MICROBIOLOGY:
=============== 
URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH 
SKIN
 AND/OR GENITAL CONTAMINATION. 

IMAGING:
=============== 

CT HEAD W/O CONTRAST Study Date of ___ 3:58 ___ 

IMPRESSION: No acute intracranial process. 
  
 

 
Brief Hospital Course:
___ is a ___ old woman with a history of HTN and 
Meniere's disease who presented with one day of persistent 
vertigo and nausea and uncomplicated UTI.

ACTIVE ISSUES:
---------------
# VERTIGO: Reported history of Meniere's, last episode 
approximately ___ years ago while she was still living in ___. 
Current episode not clearly consistent with Meniere's given 
absence of aural fullness and hearing loss. This episode is more 
consistent with vestibular neuritis given recent URI symptoms 
and sick contact exposure, in addition to a more prolonged time 
course of vertigo symptoms which would be less likely in BPPV or 
Meniere. Neuro was consulted who agrees with peripheral vertigo, 
likely vestibuilitis and exonerated central vertigo. CT head 
negative. On re-examination morning of discharge, pt reports 
near resolution of vertigo symptoms. On evaluation with physical 
therapy, the patient was able to ambulate the hallway and stairs 
with only minor symptoms. ___ recommending home with outpatient 
vestibular ___. 

# UNCOMPLICATED URINARY TRACT INFECTION: infectious appearing UA 
w/o urinary symptoms, but given suprapubic tenderness will 
treat. Started on Bactrim (D1 = ___ for 3 day course. Final 
urine cultures will need to be followed up.

# SCALP PSORIASIS: reportedly new since ___ of this year. 
Patient will follow-up with outpatient PCP for further 
management. 

# HTN: Continue home amlodipine 

TRANSITIONAL ISSUES:
=====================
#Vertigo: pt can follow up with outpatient vestibular ___. Please 
monitor for persistent symptoms of vertigo.

#UTI: Bactrim DS BID (D1 ___ for 3 day course 
(___). Please follow up final urine culture for 
sensitivities 

#Scalp psoriasis: follow-up with PCP for consideration of 
steroid cream regimen vs. shampoo 

CORE MEASURES: 
# CODE: Full (presumed) 
# CONTACT: Son - Home ___ Cell ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QSAT 
2. amLODIPine 5 mg PO DAILY 
3. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral BID 
4. Vitamin D ___ UNIT PO 1X/WEEK (SA) 

 
Discharge Medications:
1.  Meclizine 12.5 mg PO Q8H:PRN dizziness 
RX *meclizine 12.5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Doses 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*5 Tablet Refills:*0 
3.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP TID 
Apply a thin film to affected area 2 to 4 times daily.   
4.  Alendronate Sodium 70 mg PO QSAT  
5.  amLODIPine 5 mg PO DAILY  
6.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral BID  
7.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  
8.Outpatient Physical Therapy
Outpatient vestibular physical lab 
ICD 10 H83.0
Duration: 2 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
====================
Vestibular neuritis
Uncomplicated urinary tract infection

SECONDARY DIAGNOSIS:
===================
Scalp psoriasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized because you felt dizzy and nauseated. We 
believe these symptoms happened because of inflammation in your 
ear. This can sometimes happen after having a cold, which it 
sounds like you may have had recently. Oftentimes, the symptoms 
resolve over the course of a few days. We are glad that you are 
now feeling better.

You were also found to have an infection in the urine. You were 
given antibiotics to treat the infection, which you should 
continue to take through ___ to complete a three day 
course.

Please take all medications as prescribed, and attend your 
follow up appointments. 

All the best,
Your ___ Team

 
Followup Instructions:
___